2179-10-23 09:27:00 Physician Attending Progress Note
Chief Complaint: hyponatremia and bradycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2179-10-22**] 11:23 AM
   EKG done [**2-20**] severe SB.
 ARTERIAL LINE - START [**2179-10-22**] 02:51 PM
 MULTI LUMEN - START [**2179-10-22**] 05:00 PM
   Sodium increased.
   On dopamine per EP.
   Had some diarrhea overnight.
   Had ~5sec pause.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Per [**Month (only) **] (reviewed on rounds)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-23**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 70 (30 - 86) bpm
   BP: 110/70(83) {90/51(61) - 141/72(93)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 0 (-8 - 5)mmHg
   Total In:
                                                                  1,587 mL
                                                                    443 mL
   PO:
                                                                    920 mL
                                                                    340 mL
   TF:
   IVF:
                                                                    667 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  4,600 mL
                                                                  1,710 mL
   Urine:
                                                                  4,600 mL
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,013 mL
                                                                 -1,267 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Alert, interactive.
   Heart regular.  HR now high 70s, sinus
   Lungs clear
   Abdomen soft
   Legs without edema
   Peripherally warm
   Labs / Radiology
   341 K/uL
   111 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.5 mEq/L
   20 mg/dL
   93 mEq/L
   121 mEq/L
   29.0 %
   4.3 K/uL
        [image002.jpg]
                             [**2179-10-22**]  06:30 AM
                             [**2179-10-22**]  01:50 PM
                             [**2179-10-22**]  10:02 PM
                             [**2179-10-22**]  11:03 PM
                             [**2179-10-23**]  03:12 AM
   WBC
   4.3
   Hct
   24.6
   24.9
   29.0
   Plt
   341
   Cr
   1.1
   1.0
   1.0
   1.0
   Glucose
   110
   90
   109
   111
   Other labs: Albumin:3.6 g/dL, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   Telemetry: converted from atrial bigeminy in the 50s to sinus in the
   80s a few hours ago
   Assessment and Plan
   69-year-old man with apparent Trileptal toxicity resulting in
   hyponatremia and bradycardia.
   Hyponatremia
   Improved. Hypertonic sodium is d/c
d.  Fluid restricting.  Appreciate
   renal
s help.  Will recheck Uosm and Sosm
   Bradycardia
   Appreciate EPs help.  Long pause last night is concerning, but appears
   to be in sinus now.  Will try off dopamine and discuss with EP.
   Other issues as per ICU team note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2179-10-22**] 06:00 AM
   18 Gauge - [**2179-10-22**] 06:01 AM
   Arterial Line - [**2179-10-22**] 02:51 PM
   Multi Lumen - [**2179-10-22**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2179-10-23 11:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   EKG done [**2-20**] severe SB, subsequently started on Dopamine.
   5 second pause
 ARTERIAL LINE - START [**2179-10-22**] 02:51 PM
 MULTI LUMEN - START [**2179-10-22**] 05:00 PM
   Sodium 118 10:30pm, 121 3:30am, Discussed values with renal team on
   both occasions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 4.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Genitourinary: No(t) Dysuria, Foley
   Flowsheet Data as of  [**2179-10-23**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 82 (30 - 86) bpm
   BP: 88/57(67) {88/51(61) - 141/72(93)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 0 (-8 - 5)mmHg
   Total In:
                                                                  1,587 mL
                                                                    463 mL
   PO:
                                                                    920 mL
                                                                    340 mL
   TF:
   IVF:
                                                                    667 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  4,600 mL
                                                                  1,885 mL
   Urine:
                                                                  4,600 mL
                                                                  1,885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,013 mL
                                                                 -1,422 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), Brady
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   341 K/uL
   111 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.2 mEq/L
   20 mg/dL
   93 mEq/L
   121 mEq/L
   26.6 %
   4.3 K/uL
        [image002.jpg]
                             [**2179-10-22**]  06:30 AM
                             [**2179-10-22**]  01:50 PM
                             [**2179-10-22**]  10:02 PM
                             [**2179-10-22**]  11:03 PM
                             [**2179-10-23**]  03:12 AM
                             [**2179-10-23**]  08:35 AM
   WBC
   4.3
   Hct
   24.6
   24.9
   29.0
   26.6
   Plt
   341
   Cr
   1.1
   1.0
   1.0
   1.0
   Glucose
   110
   90
   109
   111
   Other labs: Albumin:3.6 g/dL, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   69-year-old male with a PMH HTN and trigeminal neuralgia recently
   started on oxcarbazapine (trileptal), p/w unresponsiveness and found to
   be resolving hyponatremia.
   .
   # Hyponatremia - Secondary to trileptal. Sodium 121 this AM from 103 on
   admission. Corrected slightly faster (3meq/hr) than ideal rate of
   12meq/24hr. Renal following closely.
   -- Continue Fluid Restriction
   -- f/u renal recs
   -- Serial Neuro-exams to assess for neurologic changes (CPM)
   .
   # Bradycardia: Likely secondary to trileptal vs hyponatremia.  Brady to
   20s yesterday. Started on Dopamine per EP recs. 5 second pause
   overnight. Atrial Bigeminy seen on review of tele. Pt sinus this AM.
   Currently on 5mcg/hr.
   - Wean dopamine as tolerated with MAP goals >65
   .
   # Diarrhea: New onset overnight. Loose, green, malodorous, without
   frank blood or melena.
   - C. Diff sent
   .
   # DM - Diet controlled
   -- RISS, DM diet, FSG qid
   .
   # HTN
   -- holding diuretics in setting of hyponatremia
   .
   # Dyslipidemia
   -- continue statin
   .
   # FEN
   -- KVO/ Replete PRN/ Heart Healthy DM
   .
   # PPx
   -- SQH, bowel regimen, home PPI
   .
   # Access
   -- PIV
   .
   # Code
   -- full
   .
   # Dispo
   -- ICU while weaning Dopamine, Monitoring Na
   .
   # Comm
   -- with pt and son-in-law [**Name (NI) 668**] (HCP) [**Telephone/Fax (1) 2325**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-10-22**] 06:00 AM
   18 Gauge - [**2179-10-22**] 06:01 AM
   Arterial Line - [**2179-10-22**] 02:51 PM
   Multi Lumen - [**2179-10-22**] 05:00 PM
   Prophylaxis:
   DVT:  Heparin SQ

2179-10-24 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Attempt to wean off dopamine in afternoon resulted in episode of
   bradycardia into 30s.
   Pt hyponatremia plateaued, hypertonic saline 3% at 25cc/hr was
   restarted and finished this am at 8am
   Pt complained of dizziness this am that was new, but had BS of 67 and
   dizziness resolved after drinking some juice.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-24**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 54 (47 - 82) bpm
   BP: 102/64(77) {77/49(59) - 129/75(95)} mmHg
   RR: 13 (12 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.7 kg (admission): 60.4 kg
    CVP: 1 (-5 - 9)mmHg
   Total In:
                                                                  1,760 mL
                                                                    299 mL
   PO:
                                                                  1,440 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    320 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    855 mL
   Urine:
                                                                  2,510 mL
                                                                    705 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -750 mL
                                                                   -556 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   GEN: awake, alert, in NAD.
   HEENT:  NC/AT. PERRLA.  EOMI. MM dry.
   NECK: supple, no LAD. No JVP, R-IJ in place. Dressing c/d/i. no
   erythema.
   CARDIOVASCULAR:  bradycardia.  No murmurs, gallops, or rubs.
   RESPIRATORY:  CTAB, mild bibasilar rales. Poor inspiratory effort.
   ABD: S/NT/ND + BS
   EXT:  No c/c/e. Peripheral pulses 2+.
   NEUROLOGIC: alert and oriented x place and month, but not year
   ([**2123**].\). CN 2-12 intact. Strength is [**5-24**] bilaterally, normal tone.
   Sensation intact to light touch. Toes downgoing.
   Labs / Radiology
   306 K/uL
   9.7 g/dL
   67 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.0 mEq/L
   17 mg/dL
   95 mEq/L
   123 mEq/L
   25.8 %
   4.4 K/uL
        [image002.jpg]
                             [**2179-10-22**]  06:30 AM
                             [**2179-10-22**]  01:50 PM
                             [**2179-10-22**]  10:02 PM
                             [**2179-10-22**]  11:03 PM
                             [**2179-10-23**]  03:12 AM
                             [**2179-10-23**]  08:35 AM
                             [**2179-10-24**]  01:34 AM
   WBC
   4.3
   4.4
   Hct
   24.6
   24.9
   29.0
   26.6
   25.8
   Plt
   341
   306
   Cr
   1.1
   1.0
   1.0
   1.0
   1.1
   Glucose
   110
   90
   109
   111
   67
   Other labs: Albumin:3.6 g/dL, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   MICRO: C-diff NEG x 2
   UCx [**10-22**] : NEG
   UCx [**10-22**]: 10,000
 100,000 cfu of Group B strep
   Assessment and Plan
   69-year-old male with a PMH HTN and trigeminal neuralgia recently
   started on oxcarbazapine (trileptal), p/w unresponsiveness and found to
   be resolving hyponatremia.
   .
   # Hyponatremia
 Likely secondary to trileptal. Sodium 103 on
   admission, corrected to 121 over 24 hours, then plateaued. Hypertonic
   saline restarted overnight and Na came up to 123 this am.
   -- Renal following closely, appreciate recs
   -- Continue Fluid Restriction
   -- Restart 3% NaCl at 50cc/hr w/ q4 hr Na checks
   -- Serial Neuro-exams to assess for neurologic changes (CPM)
   .
   # Bradycardia: Cardiology suggests secondary to trileptal vs
   hyponatremia. However, there are not many cases of bradycardia
   assocated with either in the literature. Also possible that bradycardia
   was pre-existing and exacerbated by one of the above. Attempts were
   made to wean Dopamine drip yesterday and overnight, but pt had
   bradycardia trending into 30s and Dopamine was restarted.  Will hope
   that able to wean off of dopamine as pt becomes euvolemic and
   normo-natremic..
   - Wean dopamine as tolerated with MAP goals >65
   - If pt still Dopamine dependent once Na has normalized, consider
   cardiology consult
   - Check records to determine if bradycardia was pre-existing.
   .
   # Diarrhea: Pt continues to have loose, green, malodorous, stool
   without frank blood or melena. Has been C-diff negative x2.
   - Repeat C. Diff for 3^rd time
   - Consider sending broader stool studies w/ ova and parasites.
   # UCx positive for Group B strep: uncommon cause of UTI. Other
   possibilites would be an endocarditis that was seeding the urine and
   contributing to a bradycardia. However, pt has normal PR interval, and
   is responsive to dopamine, both of which would likely no be the cause
   in bradycardia [**2-20**] to endocarditis.
   - no need to treat currently, will follow clinically, resend UCx if
   develops symptoms
   .
   # DM - Diet controlled
   -- RISS, DM diet, FSG qid
   # HTN
   -- holding diuretics in setting of hyponatremia
   # Dyslipidemia
   -- continue statin
   # FEN
   -- KVO/ Replete PRN/ Heart Healthy DM
   # PPx
   -- SQH, bowel regimen, home PPI
   # Access
   -- PIV
   # Code
   -- full
   # Dispo
   -- ICU while weaning Dopamine, Monitoring Na
   .
   # Comm
   -- with pt and son-in-law [**Name (NI) 668**] (HCP) [**Telephone/Fax (1) 2325**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-10-22**] 06:01 AM
   Arterial Line - [**2179-10-22**] 02:51 PM
   Multi Lumen - [**2179-10-22**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-10-24 09:25:00 Physician Attending Progress Note
Chief Complaint: bradycardia, hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Recurrent bradycardia when dopamine d/c'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 3.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-10-24**] 06:02 AM
   Other medications:
   iron, PPI, MVI, statin, asa, SQH, SQI, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-24**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96
   HR: 53 (47 - 82) bpm
   BP: 102/61(74) {77/49(59) - 129/75(95)} mmHg
   RR: 14 (12 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 55.7 kg (admission): 60.4 kg
   CVP: 1 (-5 - 9)mmHg
   Total In:
                                                                  1,760 mL
                                                                    537 mL
   PO:
                                                                  1,440 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    320 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    890 mL
   Urine:
                                                                  2,510 mL
                                                                    740 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -750 mL
                                                                   -353 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), brady
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   306 K/uL
   67 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.0 mEq/L
   17 mg/dL
   95 mEq/L
   123 mEq/L
   25.8 %
   4.4 K/uL
        [image002.jpg]
                             [**2179-10-22**]  06:30 AM
                             [**2179-10-22**]  01:50 PM
                             [**2179-10-22**]  10:02 PM
                             [**2179-10-22**]  11:03 PM
                             [**2179-10-23**]  03:12 AM
                             [**2179-10-23**]  08:35 AM
                             [**2179-10-24**]  01:34 AM
   WBC
   4.3
   4.4
   Hct
   24.6
   24.9
   29.0
   26.6
   25.8
   Plt
   341
   306
   Cr
   1.1
   1.0
   1.0
   1.0
   1.1
   Glucose
   110
   90
   109
   111
   67
   Other labs: Albumin:3.6 g/dL, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Microbiology: c diff negative x 2
   Assessment and Plan
   69-year-old man with apparent Trileptal toxicity resulting in
   hyponatremia and bradycardia.
   Hyponatremia
   Improved but has plateaud.  We will increase oral salt intake and will
   increase rate of 3% saline.
   Bradycardia
   Appreciate EPs help.  Still dopamine dependent.
   Other issues as per ICU team note
   Suspect low-concentration GBS in urine represents contaminant.
   ICU Care
   Nutrition: adat
   Glycemic Control:   loosen sliding scale
   Lines:
   18 Gauge - [**2179-10-22**] 06:01 AM
   Arterial Line - [**2179-10-22**] 02:51 PM
   Multi Lumen - [**2179-10-22**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 min
   Patient is critically ill

2179-10-25 05:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Received hypertonic saline at 45cc/hour. Stopped prior to completion of
   500cc since Na 123->126->129
   Na 123->123->126-> 129
   Changed IVF to NS at 150 per hour x 1 liter.
   Off dopamine since 9 am. HR 60s
   Added home timolol eye drops
   Renal recs in am when Na 123: Continue hypertonic saline for now but
   normal saline should suffice
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-10-24**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-25**] 05:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 57 (51 - 71) bpm
   BP: 112/59(79) {92/54(66) - 141/76(98)} mmHg
   RR: 13 (11 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 55.7 kg (admission): 60.4 kg
             Total In:
                                                                  2,723 mL
                                                                    683 mL
   PO:
                                                                  1,550 mL
             TF:
   IVF:
                                                                  1,173 mL
                                                                    683 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    270 mL
   Urine:
                                                                  1,500 mL
                                                                    270 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  1,073 mL
                                                                    413 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   GEN: awake, alert, in NAD.
   HEENT:  NC/AT. PERRLA.  EOMI. MM dry.
   NECK: supple, no LAD. No JVP, R-IJ in place. Dressing c/d/i. no
   erythema.
   CARDIOVASCULAR:  bradycardia.  No murmurs, gallops, or rubs.
   RESPIRATORY:  CTAB, mild bibasilar rales. Poor inspiratory effort.
   ABD: S/NT/ND + BS
   EXT:  No c/c/e. Peripheral pulses 2+.
   NEUROLOGIC: alert and oriented x place and month, but not year
   ([**2123**].\). CN 2-12 intact. Strength is [**5-24**] bilaterally, normal tone.
   Sensation intact to light touch. Toes downgoing.
   Labs / Radiology
   306 K/uL
   9.7 g/dL
   67 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.0 mEq/L
   17 mg/dL
   95 mEq/L
   129 mEq/L
   25.8 %
   4.4 K/uL
        [image002.jpg]
                             [**2179-10-22**]  06:30 AM
                             [**2179-10-22**]  01:50 PM
                             [**2179-10-22**]  10:02 PM
                             [**2179-10-22**]  11:03 PM
                             [**2179-10-23**]  03:12 AM
                             [**2179-10-23**]  08:35 AM
                             [**2179-10-24**]  01:34 AM
   WBC
   4.3
   4.4
   Hct
   24.6
   24.9
   29.0
   26.6
   25.8
   Plt
   341
   306
   Cr
   1.1
   1.0
   1.0
   1.0
   1.1
   Glucose
   110
   90
   109
   111
   67
   Other labs: Albumin:3.6 g/dL, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   69-year-old male with a PMH HTN and trigeminal neuralgia recently
   started on oxcarbazapine (trileptal), p/w unresponsiveness and found to
   be resolving hyponatremia.
   .
   # Hyponatremia
 Likely secondary to trileptal. Sodium 103 on
   admission, corrected to 121 over 24 hours, then plateaued. Hypertonic
   saline restarted overnight and Na came up to 123 this am.
   -- Renal following closely, appreciate recs
   -- Continue Fluid Restriction
   -- Restart 3% NaCl at 50cc/hr w/ q4 hr Na checks
   -- Serial Neuro-exams to assess for neurologic changes (CPM)
   .
   # Bradycardia: Cardiology suggests secondary to trileptal vs
   hyponatremia. However, there are not many cases of bradycardia
   assocated with either in the literature. Also possible that bradycardia
   was pre-existing and exacerbated by one of the above. Attempts were
   made to wean Dopamine drip yesterday and overnight, but pt had
   bradycardia trending into 30s and Dopamine was restarted.  Will hope
   that able to wean off of dopamine as pt becomes euvolemic and
   normo-natremic..
   - Wean dopamine as tolerated with MAP goals >65
   - If pt still Dopamine dependent once Na has normalized, consider
   cardiology consult
   - Check records to determine if bradycardia was pre-existing.
   .
   # Diarrhea: Pt continues to have loose, green, malodorous, stool
   without frank blood or melena. Has been C-diff negative x2.
   - Repeat C. Diff for 3^rd time
   - Consider sending broader stool studies w/ ova and parasites.
   # UCx positive for Group B strep: uncommon cause of UTI. Other
   possibilites would be an endocarditis that was seeding the urine and
   contributing to a bradycardia. However, pt has normal PR interval, and
   is responsive to dopamine, both of which would likely no be the cause
   in bradycardia [**2-20**] to endocarditis.
   - no need to treat currently, will follow clinically, resend UCx if
   develops symptoms
   .
   # DM - Diet controlled
   -- RISS, DM diet, FSG qid
   # HTN
   -- holding diuretics in setting of hyponatremia
   # Dyslipidemia
   -- continue statin
   # FEN
   -- KVO/ Replete PRN/ Heart Healthy DM
   # PPx
   -- SQH, bowel regimen, home PPI
   # Access
   -- PIV
   # Code
   -- full
   # Dispo
   -- ICU while weaning Dopamine, Monitoring Na
   .
   # Comm
   -- with pt and son-in-law [**Name (NI) 668**] (HCP) [**Telephone/Fax (1) 2325**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-10-22**] 06:01 AM
   Arterial Line - [**2179-10-22**] 02:51 PM
   Multi Lumen - [**2179-10-22**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-10-25 14:20:00 Physician Attending Progress Note
Chief Complaint: brdaycardia, hypomatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   3% guven yestreday and follow up Na 130
   Off dopmine at 9PM and stable hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-25**] 02:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 60 (51 - 71) bpm
   BP: 153/83(109) {93/54(67) - 160/83(109)} mmHg
   RR: 12 (11 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.7 kg (admission): 60.4 kg
             Total In:
                                                                  2,713 mL
                                                                  2,320 mL
   PO:
                                                                  1,550 mL
                                                                    620 mL
   TF:
   IVF:
                                                                  1,163 mL
                                                                  1,700 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    940 mL
   Urine:
                                                                  1,500 mL
                                                                    940 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  1,063 mL
                                                                  1,380 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Sitting upin chair, eating soup NAD
   o/p clear
   right ij line c/d/i
   RR
   CTA bilat
   Abd soft NT + BS
   Ext no edema
   Neuro: A and O x 3, moving all ext, conversant
   Labs / Radiology
   8.5 g/dL
   259 K/uL
   80 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.4 mEq/L
   17 mg/dL
   103 mEq/L
   130 mEq/L
   23.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2179-10-22**]  06:30 AM
                             [**2179-10-22**]  01:50 PM
                             [**2179-10-22**]  10:02 PM
                             [**2179-10-22**]  11:03 PM
                             [**2179-10-23**]  03:12 AM
                             [**2179-10-23**]  08:35 AM
                             [**2179-10-24**]  01:34 AM
                             [**2179-10-25**]  04:04 AM
   WBC
   4.3
   4.4
   6.5
   Hct
   24.6
   24.9
   29.0
   26.6
   25.8
   23.0
   Plt
   [**Telephone/Fax (3) 2426**]
   Cr
   1.1
   1.0
   1.0
   1.0
   1.1
   1.1
   Glucose
   110
   90
   109
   111
   67
   80
   Other labs: Albumin:3.6 g/dL, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   69-year-old man with apparent Trileptal toxicity resulting in
   hyponatremia and bradycardia.
   1. Hyponatremia : stable. No further 3%saline. Continue NS at 100 cc/hr
   and free water restrict
   2. Bradycardia : Appreciate EPs help.  Stable off dopamine. Monitor on
   telemetry
   3. Pain : off trileptal and without sig pain this AM- manage as needed
   with po Tylenol or low dose narcti if needed.
   4. Suspect low-concentration GBS in urine represents contaminant -
   repeat
   Other issues as per ICU team note
   ICU Care
   Nutrition: free water restrict
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-10-22**] 06:01 AM
   Arterial Line - [**2179-10-22**] 02:51 PM
   Multi Lumen - [**2179-10-22**] 05:00 PM
   20 Gauge - [**2179-10-25**] 12:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: eating, ppi
   Communication:  with patient and family
   Code status: Full code
   Disposition :Transfer to floor